US07452990B2
Step D: Preparation of Ceftiofur
25.0 g (0.3289 moles) of thiourea was dissolved in 160 ml of demineralised water. This solution was added to a mixture containing 7-[4-bromo-2(Z)-methoxyimino-3-oxobutyramido]-3-[[(2-furanylcarbonyl)thio]methyl]-3-cephem-4-carboxylic acid in methylene chloride, as obtained from Step C 240 ml of tetrahydrofuran (THF) over a period of 30 mins. The reaction mixture was stirred for 2 hrs at 5-10° C. The pH of the solution was adjusted to 5.0 with aqueous sodium bicarbonate solution.

reactant | thiourea | 0.3289 moles, 25.0 g | NC(=S)N | CH4N2S
reactant | 7-[4-bromo-2(Z)-methoxyimino-3-oxobutyramido]-3-[[(2-furanylcarbonyl)thio]methyl]-3-cephem-4-carboxylic acid | BrCC(/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC(=O)C=2OC=CC2)C(=O)O)C1=O)=N/OC)=O | C18H16BrN3O8S2
reactant | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 160 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ceftiofur | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O | C19H17N5O7S3
